US07820782B2
(c) 4,8-Dihexylbenzo[1,2-b:4,5-b′]dithiophene
To a solution of the above prepared 4,8-dihexynylbenzo[1,2-b:4,5-b′]dithiophene (3 grams, 8.6 mmol) in THF (150 milliliters) in a round-bottomed flask was added 10 percent Pd/C (0.90 gram, 0.86 mmol). The mixture was stirred under a hydrogen atmosphere at room temperature for 24 hours. The solvent was removed by vacuum evaporation, and the residue with the catalyst impurity was purified by column chromatography on silica gel (eluent:hexane/dichloromethane, 2/1, v/v). Recrystallization of the product isolated from column chromatography from 20 milliliters of isopropanol in fridge afforded 1.54 grams (51 percent yield) of needle crystal after drying in vacuo.

reactant | 4,8-dihexynylbenzo[1,2-b:4,5-b′]dithiophene | 8.6 mmol, 3 grams | C(#CCCCC)C1=C2C(SC=C2)=C(C2=C1SC=C2)C#CCCCC | C22H22S2
solvent | THF | 150 milliliters | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.86 mmol, 0.90 gram | [Pd] | Pd
product | 4,8-Dihexylbenzo[1,2-b:4,5-b′]dithiophene | 1.54 grams, 51 percent yield | C(CCCCC)C1=C2C(SC=C2)=C(C2=C1SC=C2)CCCCCC | C22H30S2
